US09107916B2
B. 2-(5-methyl-4-phenyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile
The title compound was prepared in 34% yield from (3E)-4-(dimethylamino)-3-phenylbut-3-en-2-one and 2-hydrazinylisonicotinonitrile (PREPARATION 2) according to the procedure for the preparation of Example 28, part D. [M+H] Calc'd for C16H12N4, 261. Found, 261.

reactant | (3E)-4-(dimethylamino)-3-phenylbut-3-en-2-one | CN(/C=C(/C(C)=O)\C1=CC=CC=C1)C | C12H15NO
reactant | 2-hydrazinylisonicotinonitrile | N(N)C=1C=C(C#N)C=CN1 | C6H6N4
product | 2-(5-methyl-4-phenyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile | 34% yield | CC1=C(C=NN1C1=NC=CC(=C1)C#N)C1=CC=CC=C1 | C16H12N4
